US07479493B2
[4-(3,4-Dichloro-phenoxy)-3-methylaminomethyl-phenyl]-(4-isopropyl-piperazin-1-yl)-methanone
To a solution of [2-(3,4-dichloro-phenoxy)-5-(4-isopropyl-piperazine-1-carbonyl)-benzyl]-methyl-carbamic acid tert-butyl ester (212.5 mg, 0.40 mmol) in DCM (2 mL) was added TFA (1 mL). After 30 min, the mixture was concentrated and the residue was purified by FCC to give the desired product (119.3 mg, 69%). MS (ESI): mass calcd. for C22H27Cl2N3O2, 435.15; m/z found, 436.3 [M+H]+. 1H NMR (CDCl3): 7.50 (d, J=2.0, 1H), 7.38 (d, J=8.8, 1H), 7.30 (dd, J=8.3, 2.1, 1H), 7.06 (d, J=2.8, 1H), 6.88 (d, J=8.3, 1H), 6.82 (dd, J=8.8, 2.8, 1H), 3.81-3.69 (m, 4H), 3.53-3.37 (m, 2H), 2.78-2.68 (m, 1H), 2.64-2.43 (m, 4H), 2.43 (s, 3H), 1.93 (br s, 1H), 1.04 (d, J=6.5, 6H).

reactant | [2-(3,4-dichloro-phenoxy)-5-(4-isopropyl-piperazine-1-carbonyl)-benzyl]-methyl-carbamic acid tert-butyl ester | 0.40 mmol, 212.5 mg | C(C)(C)(C)OC(N(C)CC1=C(C=CC(=C1)C(=O)N1CCN(CC1)C(C)C)OC1=CC(=C(C=C1)Cl)Cl)=O | C27H35Cl2N3O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | [4-(3,4-Dichloro-phenoxy)-3-methylaminomethyl-phenyl]-(4-isopropyl-piperazin-1-yl)-methanone | 119.3 mg, 69% | ClC=1C=C(OC2=C(C=C(C=C2)C(=O)N2CCN(CC2)C(C)C)CNC)C=CC1Cl | C22H27Cl2N3O2
